US06451810B1
A catalytic amount of platinum on carbon was added to a suspension of N1-{5-[(3-nitroquinolin-4-yl)amino]pentyl}benzamide (5 g, 13.2 mmol) in toluene (250 mL). The reaction mixture was placed under a hydrogen atmosphere at 50 psi (3.4×104 pascals) on a Parr apparatus. After about 2 hours an oily ball had formed in the bottom of the Parr bottle. Magnesium sulfate and additional catalyst were added and the hydrogenation was continued overnight. The reaction mixture was filtered to remove the catalyst. The residue in the Parr bottle was combined with isopropyl alcohol (150 mL), heated on a steam bath and then filtered. HPLC analysis indicated that both filtrates contained product so they were combined and concentrated under vacuum to provide crude N1-{5-[(3-aminoquinolin-4-yl)amino]pentyl}benzamide. This material was combined with toluene (250 mL). Triethylorthoformate (4 g, 26.4 mmol) was added and the reaction mixture was heated at reflux with a Vigreux column for 2 hours. The reaction mixture was allowed to cool to ambient temperature. The resulting precipitate was isolated by filtration to provide 3.4 g of N1-[5-(1H-imidazo[4,5-c]quinolin-1-yl)pentyl]benzamide as a solid, m.p. 171.5-172.5° C. 1H NMR (500 MHz, DMSO-d6) δ9.22 (s, 1H), 8.43 (t, J=6.0 Hz, 2H), 8.38 (m, 1H), 8.18 (m, 1H), 7.80 (d, J=7.0 Hz, 2H), 7.73 (m, 2H), 7.51 (t, J=7.0 Hz, 1H), 7.45 (t, J=7.0 Hz, 2H), 4.72 (t, J=7.5 Hz, 2H), 3.25 (q, J=6.0 Hz, 2H), 1.94 (quintet, J=7.5 Hz, 2H), 1.58 (quintet, J=7.5 Hz, 2H), 1.40 (quintet, J=8.5 Hz, 2H).

reactant | N1-{5-[(3-nitroquinolin-4-yl)amino]pentyl}benzamide | 13.2 mmol, 5 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCNC(C1=CC=CC=C1)=O | C21H22N4O3
reactant | Magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | Triethylorthoformate | 26.4 mmol, 4 g | C(C)OC(OCC)OCC | C7H16O3
catalyst | platinum on carbon | [Pt] | Pt
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | N1-[5-(1H-imidazo[4,5-c]quinolin-1-yl)pentyl]benzamide | 3.4 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCCCCNC(C2=CC=CC=C2)=O | C22H22N4O
